US06416928B1
Synthesis of 4-Phenylmethylbenzenesulfonic Acid
To 33.6 g (0.2 mol) of diphenylmethane in 100 g of dichloromethane at room temperature, 23.4 g (0.2 mol) of chlorosulfonic acid was added dropwise. The solution was ripened for 2 hours, whereupon 50 g of water was added. This reaction mixture was used in the subsequent reaction without isolation.

reactant | diphenylmethane | 0.2 mol, 33.6 g | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | chlorosulfonic acid | 0.2 mol, 23.4 g | ClS(=O)(=O)O | ClHO3S
reactant | water | 50 g | O | H2O
solvent | dichloromethane | 100 g | ClCCl | CH2Cl2
product | 4-Phenylmethylbenzenesulfonic Acid | C1(=CC=CC=C1)CC1=CC=C(C=C1)S(=O)(=O)O | C13H12O3S
